.suckt  three_stage_fully_differential_op_amp_6_7_8 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outVoltageBiasXXpXX1 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m2 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m3 outVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m4 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m5 outFeedback outFeedback sourceNmos sourceNmos nmos
m6 FeedbackStageYsourceTransconductance1 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m7 FeedbackStageYinnerStageBias1 ibias sourcePmos sourcePmos pmos
m8 FeedbackStageYsourceTransconductance2 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m9 FeedbackStageYinnerStageBias2 ibias sourcePmos sourcePmos pmos
m10 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m11 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m12 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m13 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m14 out1FirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m15 FirstStageYsourceGCC1 outFeedback sourceNmos sourceNmos nmos
m16 out2FirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m17 FirstStageYsourceGCC2 outFeedback sourceNmos sourceNmos nmos
m18 out1FirstStage ibias sourcePmos sourcePmos pmos
m19 out2FirstStage ibias sourcePmos sourcePmos pmos
m20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m21 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m22 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m23 out1SecondStage out1FirstStage sourceNmos sourceNmos nmos
m24 out1SecondStage ibias sourcePmos sourcePmos pmos
m25 out2SecondStage out2FirstStage sourceNmos sourceNmos nmos
m26 out2SecondStage ibias sourcePmos sourcePmos pmos
m27 out1 inputVoltageBiasXXnXX1 ThirdStage1YinnerStageBias ThirdStage1YinnerStageBias nmos
m28 ThirdStage1YinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m29 out1 out1SecondStage sourcePmos sourcePmos pmos
m30 out2 inputVoltageBiasXXnXX1 ThirdStage2YinnerStageBias ThirdStage2YinnerStageBias nmos
m31 ThirdStage2YinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m32 out2 out2SecondStage sourcePmos sourcePmos pmos
m33 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m34 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m35 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m36 ibias ibias sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_6_7_8

